US06235731B1
1) Synthesis of tert-butyl 4-(3-phenylpropyl)piperazine-1-carboxylate
To a solution of 7.06 g (37.9 mmol.) of 1-tert-butoxycarbonylpiperazine in ethanol (50 ml) were added, at room temperature, 8.0 ml (57.4 mmol.) of triethylamine and 7.09 g (39.7 mmol.) of 1-bromo-3-phenylpropane. The mixture was heated under reflux for 16 hours under nitrogen atmosphere. To the reaction system was added ethyl acetate. The mixture was washed with water and a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a column chromatography (ethyl acetate/hexane=25-50%). The solvent was distilled off under reduced pressure to give the object compound as a pale yellow liquid product. The yield was 8.69 g (75%).

reactant | 1-tert-butoxycarbonylpiperazine | 37.9 mmol, 7.06 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 57.4 mmol, 8.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-phenylpropane | 39.7 mmol, 7.09 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 4-(3-phenylpropyl)piperazine-1-carboxylate | C1(=CC=CC=C1)CCCN1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2
